US08211904B2
Step 1: 4′-(isopropylsulfonyl)biphenyl-2-amine
To a solution of 2-bromoaniline (1.51 g, 8.78 mmol) in a mixture of benzene (58 mL), H2O (23 mL) and ethanol (3 mL) was added 4-(isopropylsulfonylphenyl)boronic acid (3.00 g, 13.2 mmol) followed by tetrakis(triphenylphoshine) palladium(0) (1.01 g, 0.88 mmol). After stirring 85° C. for 48 h the reaction mixture was poured into H2O (500 mL), extracted with chloroform (three times), dried over MgSO4 and concentrated under vacuum. Purification by silica gel chromatography (20% EtOAc/hexanes—40% EtOAc/hexanes) afforded the desired product.

reactant | 2-bromoaniline | 8.78 mmol, 1.51 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | H2O | 23 mL | O | H2O
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | 4-(isopropylsulfonylphenyl)boronic acid | 13.2 mmol, 3.00 g | B(C1=CC=C(C=C1)S(=O)(=O)C(C)C)(O)O | C9H13BO4S
reactant | H2O | 500 mL | O | H2O
solvent | benzene | 58 mL | C1=CC=CC=C1 | C6H6
product | 4′-(isopropylsulfonyl)biphenyl-2-amine | C(C)(C)S(=O)(=O)C1=CC=C(C=C1)C=1C(=CC=CC1)N | C15H17NO2S
